US07943774B2
4-[5-Bromo-4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidine (II-3)
At 0° C., bromine (123 mg) is added dropwise to a solution of 4-[4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidine hydrochloride (II-1, 200 mg) in acetic acid (2 ml). The mixture is stirred for 30 min, and saturated sodium bicarbonate solution is then added. The aqueous phase is separated off and extracted with ethyl acetate. The combined organic phases are dried over anhydrous sodium carbonate, concentrated under reduced pressure and purified chromatographically. This gives 4-[5-bromo-4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidine (127 mg).

reactant | bromine | 123 mg | BrBr | Br2
reactant | 4-[4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidine hydrochloride | 200 mg | Cl.C1(=CC=CC=C1)CCC=1N=C(SC1)C1CCNCC1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 4-[5-Bromo-4-(2-phenylethyl)-1,3-thiazol-2-yl]piperidine | BrC1=C(N=C(S1)C1CCNCC1)CCC1=CC=CC=C1 | C16H19BrN2S
